US09340549B2
To a round bottom flask were added (S)-5,5-dimethyl-4-phenyloxazolidin-2-one (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (0.750 g, 3.92 mmol), 2-fluoro-5-iodopyridine (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (1.749 g, 7.84 mmol), and dioxane (15.69 mL). Tribasic potassium phosphate (4.16 g, 19.61 mmol) was then added to the mixture. The vessel was purged with nitrogen followed by the addition of N,N′-dimethylethylenediamine (0.844 mL, 7.84 mmol) and copper (I) iodide (0.747 g, 3.92 mmol). The vessel was heated to reflux overnight providing an orange suspension. To the mixture was added water (˜10 mL), and the resulting slurry was filtered through Celite® brand filter aid. The yellow filtrate was transferred to a separatory funnel, diluted with water and extracted with EtOAc (2×). The combined organic layers were dried with Na2SO4, filtered, and dried under reduced pressure. The residue was purified with a 50 g SNAP column (Biotage) ramping EtOAc in heptane (0-35%, then isocratic at 35%) to elute (S)-3-(6-fluoropyridin-3-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.815 g, 2.85 mmol, 72.6% yield) which was obtained as a white solid upon drying. 1H NMR (400 MHz, CDCl3) δ=8.21 (ddd, J=3.0, 6.8, 9.0 Hz, 1H), 8.02-7.99 (m, 1H), 7.41-7.34 (m, 3H), 7.20-7.16 (m, 2H), 6.88 (ddd, J=0.6, 3.5, 8.9 Hz, 1H), 5.00 (s, 1H), 1.71 (s, 3H), 1.04 (s, 3H). m/z (ESI) 287.1 (M+H)+.

reactant | (S)-5,5-dimethyl-4-phenyloxazolidin-2-one | CC1([C@@H](NC(O1)=O)C1=CC=CC=C1)C | C11H13NO2
reactant | 2-fluoro-5-iodopyridine | FC1=NC=C(C=C1)I | C5H3FIN
reactant | potassium phosphate | 19.61 mmol, 4.16 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 7.84 mmol, 0.844 mL | CNCCNC | C4H12N2
catalyst | copper (I) iodide | 3.92 mmol, 0.747 g | [Cu]I
solvent | water | ˜10 mL | O | H2O
solvent | dioxane | 15.69 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(6-fluoropyridin-3-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 2.85 mmol, 0.815 g, 72.6% yield | FC1=CC=C(C=N1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C16H15FN2O2
